US07750014B2
To a mixture of sodium (1.66 g, 72.13 mmol) in diethyl ether (35 mL) was added diethyl succinate (10 mL, 60.11 mmol) and ethyl formate (8.25 mL, 102.18 mmol) at room temperature, and the reaction mixture was refluxed for 5 hours. After the cooling to room temperature, water was added to the mixture until the sodium salt was dissolved completely and aqueous layer was separated. The aqueous layer was neutralized by 6M hydrochloric acid (10.8 mL) and extracted with diethyl ether. The extracts were washed with sat.NaHCO3, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by distillation (115-120° C., 10 mmHg) to give diethyl 2-formylsuccinate (6.55 g, 54%) as colorless oil.

reactant | sodium | 72.13 mmol, 1.66 g | [Na] | Na
reactant | diethyl succinate | 60.11 mmol, 10 mL | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | ethyl formate | 102.18 mmol, 8.25 mL | C(=O)OCC | C3H6O2
reactant | water | O | H2O
solvent | diethyl ether | 35 mL | C(C)OCC | C4H10O
product | diethyl 2-formylsuccinate | 6.55 g, 54% | C(=O)C(C(=O)OCC)CC(=O)OCC | C9H14O5
